US06358949B1
A solution of 395 mg (0.66 mmole) of (2-chloro-3,4-dimethoxyphenyl)-N-[(1-{[2-(3-chloropropoxy)phenyl]-methyl}benzimidazol-2-yl)methyl]-N-(3-methylbutyl) carboxamide in 6 mL of acetone is treated with 99 mg (3.30 mmole) of NaI at reflux for 16 hrs, at which time another 3.30 mmole of NaI is added and heated for an additional 24 hrs. The solution is evaporated under reduced pressure, the residue is diluted with 30 mL of ethyl acetate, washed with 2×10 mL water and 1×10 mL brine, dried over anhydrous Na2SO4 and the solvent is removed in vacuo. The residue is dissolved in anhydrous 1-methyl-2-pyrrolidinone at 100 mg/ mL and 1 mL of the solution is treated with an excess of N-methyl piperazine at 50° C. for 16 hr. The resulting solution is cooled to room temperature, washed with 3×1 mL water and 1×1 mL brine, dried over anhydrous Na2SO4 and the solvent is removed in vacuo. The residue is prep-plate chromatographed (5% MeOH/CH2Cl2/0.5% NH4OH) to afford 65 mg (70%) of 2-chloro-3,4-dimethoxyphenyl)-N-(3-methylbutyl)-N-{[1-({2-[3-(4-methylpiperazinyl)propoxy]phenyl}methyl)benzimidazol-2-yl]methyl}carboxamide. Mass Spec M+ 663.

reactant | (2-chloro-3,4-dimethoxyphenyl)-N-[(1-{[2-(3-chloropropoxy)phenyl]-methyl}benzimidazol-2-yl)methyl]-N-(3-methylbutyl) carboxamide | 0.66 mmole, 395 mg | ClC1=C(C=CC(=C1OC)OC)C(=O)N(CCC(C)C)CC1=NC2=C(N1CC1=C(C=CC=C1)OCCCCl)C=CC=C2 | C32H37Cl2N3O4
reactant | NaI | 3.30 mmole, 99 mg | [Na+].[I-]
reactant | NaI | 3.30 mmole | [Na+].[I-]
reactant | acetone | 6 mL | CC(=O)C | C3H6O
product | N-(3-methylbutyl)-N-{[1-({2-[3-(4-methylpiperazinyl)propoxy]phenyl}methyl)benzimidazol-2-yl]methyl}carboxamide | CC(CCN(C=O)CC1=NC2=C(N1CC1=C(C=CC=C1)OCCCN1CCN(CC1)C)C=CC=C2)C | C29H41N5O2
